US07994196B2
A mixture of reduced iron (17.7 g), acetic acid (290 ml) and water (145 ml) was stirred with heating at 60° C. for 15 min, 5-bromo-2-chloro-4-nitrobenzotrifluoride (17.7 g) dissolved in 1,4-dioxane (100 ml) was added thereto, and the mixture was stirred with heating at 60° C. for 30 min. The reaction mixture was ice-cooled, ethyl acetate (700 ml) was added and the mixture was stirred at room temperature, The reaction mixture was filtered through a celite (trademark) filter. The filtrate was washed three times with a 1N aqueous sodium hydroxide solution and then with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give 2-bromo-5-chloro-4-(trifluoromethyl)aniline (17.1 g, yield 100%).

reactant | acetic acid | 290 ml | C(C)(=O)O | C2H4O2
reactant | water | 145 ml | O | H2O
reactant | 5-bromo-2-chloro-4-nitrobenzotrifluoride | 17.7 g | BrC=1C(=CC(=C(C1)C(F)(F)F)Cl)[N+](=O)[O-] | C7H2BrClF3NO2
reactant | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-bromo-5-chloro-4-(trifluoromethyl)aniline | 17.1 g, yield 100% | BrC1=C(N)C=C(C(=C1)C(F)(F)F)Cl | C7H4BrClF3N
